US06235778B1
a) 2-(2-Nitrophenylsulfonyloxy)phenol
A mixture of orcinol monohydrate (4.32 g, 30.2 mmol) and 2-nitrobenzenesulfonyl chloride (6.65 g, 30.0 mmol) in diethyl ether (100 mL) and saturated NaHCO3 (100 mL) was stirred at ambient temperature for 36 h. The reaction mixture was diluted with water (100 mL) and extracted into 10% tetrahydrofuran/ethyl acetate, dried (MgSO4), and concentrated. The residue was diluted with diethyl ether (150 mL) and the resulting disulfonated product (1.6 g) removed by filtration. The filtrate was concentrated and purified by flash chromatography (3:97 to 10:90 diethyl ether/dichloromethane) to give 5.67 g (61%) of the title compound as an oil. 1H-NMR (300 MHz, CDCl3) δ7.99 (dd, 1H, J=7, 2 Hz), 7.79-7.86 (m, 2H), 7.65-7.73 (m, 1H), 6.60-6.61 (m, 1H), 6.58-6.59 (m, 1H), 6.50-6.51 (m, 1H), 5.32 (s, 1H), 2.25 (s, 3H).

reactant | orcinol monohydrate | 30.2 mmol, 4.32 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 2-nitrobenzenesulfonyl chloride | 30.0 mmol, 6.65 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | water | 100 mL | O | H2O
product | 2-(2-Nitrophenylsulfonyloxy)phenol | 5.67 g, 61% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)OC1=C(C=CC=C1)O | C12H9NO6S
